US08859773B2
Step 1: 4-bromo-2-methyl-6-(trifluoromethyl)aniline
To a room temperature solution of 2-methyl-6-(trifluoromethyl)aniline (3.0 g, 17 mmol) in acetonitrile (85 mL) was added N-bromosuccinimide (3.0 g, 17 mmol) in small portions over 30 minutes. The reaction was allowed to stir for 1 hour. The reaction was poured into a water/brine mixture and was extracted with ethyl acetate (3×). The combined organics were dried over magnesium sulfate, filtered, and concentrated. Purification by flash column chromatography (0-40% ethyl acetate/heptanes) gave the title compound (4.13 g, 95%) as a brown oil. 1H NMR (400 MHz, CDCl3, δ): 7.42 (d, J=2.34 Hz, 1H), 7.31 (s, 1H), 2.17 (s, 3H).

reactant | 2-methyl-6-(trifluoromethyl)aniline | 17 mmol, 3.0 g | CC1=C(N)C(=CC=C1)C(F)(F)F | C8H8F3N
reactant | N-bromosuccinimide | 17 mmol, 3.0 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | water brine | O.[Cl-].[Na+].O
solvent | acetonitrile | 85 mL | C(C)#N | C2H3N
product | 4-bromo-2-methyl-6-(trifluoromethyl)aniline | 4.13 g, 95% | BrC1=CC(=C(N)C(=C1)C(F)(F)F)C | C8H7BrF3N
